US07932272B2
2-Amino-6-(2-amino-ethylamino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide (150 mg, 0.417 mmol) described in Preparation Example A+-11, ethane-1,2-diamine (418 μl, 6.25 mmol) were dissolved in a mixture solution of dimethylsulfoxide (2 mL) and N,N-diisopropylethylamine (1 mL), and the solution was stirred at 120° C. for 15 hours. The reaction solution was cooled to room temperature, water was added, then extracted with ethyl acetate and tetrahydrofuran, the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, tetrahydrofuran and NH silica gel were added to the residue, the solvent was evaporated in vacuo adsorption, purification was carried out by NH silica gel column chromatography (ethyl acetate:methanol=10:1), and the title compound (95 mg, 0.25 mmol, 59%) was obtained as a white solid.

reactant | 2-Amino-6-chloro-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.417 mmol, 150 mg | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)Cl | C17H14ClN3O2S
reactant | ethane-1,2-diamine | 6.25 mmol, 418 μl | C(CN)N | C2H8N2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | N,N-diisopropylethylamine | 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-Amino-6-(2-amino-ethylamino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 0.25 mmol, 95 mg, 59% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)NCCN | C19H21N5O2S
